US08076345B2
E) Quinolin-7-ylmethanamine
7-(Azidomethyl)quinoline (1.1 g, 5.7 mmol) was hydrogenated (1 atm) in the presence of Raney nickel (1.5 g, 26 mmol) in methanol (30 mL) until completion of the reaction. Catalyst was filtered off and the filtrate was concentrated under reduced pressure to a yellow oil which was dissolved in EtOAc (32 mL) and extracted with 1N hydrochloric acid (3×32 mL). The combined acidic aqueous phases were adjust to pH˜10 with 1N sodium hydroxide solution, and extracted with EtOAc (3×35 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to afford a white solid (0.89 g, 94%).

reactant | 7-(Azidomethyl)quinoline | 5.7 mmol, 1.1 g | N(=[N+]=[N-])CC1=CC=C2C=CC=NC2=C1 | C10H8N4
catalyst | Raney nickel | 26 mmol, 1.5 g | [Ni] | Ni
solvent | methanol | 30 mL | CO | CH4O
product | Quinolin-7-ylmethanamine | 0.89 g, 94% | N1=CC=CC2=CC=C(C=C12)CN | C10H10N2
